US06927247B2
1,3-Propanediol (9.50 g, 0.125 mol), a 55:45 mixture of the respective 4- and 3- isomers of mercaptophenylacetic acid (45.00 g, 0.268 mol), concentrated sulfuric acid (0.2 mL), and toluene (200 mL) were combined in a round-bottom flask equipped with a magnetic stirring bar, a water separator, and a condenser. During 6 h of heating under reflux with stirring, the solid organic acid isomers disappeared, and 4.46 mL (0.248 mol) of water was collected by the water separator. The mixture was allowed to cool to room temperature, washed in succession with 20 mL of saturated NaHCO3 solution and two 50-mL portions of brine, then dried over anhydrous MgSO4 and freed of solvent on a rotary evaporator. Dissolution of the residue in 400 mL of dichloromethane, followed by treatment at the boiling point with a small amount of decolorizing carbon, hot filtration, and rotary evaporation to remove solvent, gave 46.4 g (yield, 99%) of 1,3-propanediol bis(mercaptophenylacetate) as a viscous pale yellow oil that was shown by NMR analyses to contain the 4- and 3-isomers in a ratio of ca. 55:45, respectively: 1H NMR (in CDCl3 w/TMS, ppm): 1.91-1.96 (m, 2H, CH2CH2CH2); 3.44 (s, 4-isomer SH) and 3.47 (s, 3-isomer SH), 2H in toto; 3.53-3.63 (m, 4H, CH2C═O); 4.10-4.14 (m, 4H, CH2O); 7.03-7.44 (m, 8H, aromatic CH); {1H}13C NMR (in CDCl3 w/TMS, ppm): 28.14 (CH2CH2CH2); 40.99 (4-isomer CH2C═O) and 41.31 (3-isomer CH2C═O); 61.64 (CH2O); 126.80-132.36 (at least 9 peaks, aromatic C); 171.20 (3-isomer C═O) and 171.41 (4-isomer C═O).

reactant | 1,3-Propanediol | 0.125 mol, 9.50 g | C(CCO)O | C3H8O2
reactant | mercaptophenylacetic acid | 0.268 mol, 45.00 g | SC(C(=O)O)C1=CC=CC=C1 | C8H8O2S
reactant | sulfuric acid | 0.2 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.248 mol, 4.46 mL | O | H2O
product | 1,3-propanediol bis(mercaptophenylacetate) | 46.4 g, 99% | SC(C(=O)OCCCOC(C(C1=CC=CC=C1)S)=O)C1=CC=CC=C1 | C19H20O4S2
